US09340538B2
Step A: Ethyl 4-(2-chlorophenyl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Thiazole-2-carboximidamide hydrochloride (11.63 g, 71.1 mmol) was reacted with 2-chlorobenzaldehyde (10 g, 71.1 mmol) and ethyl 3-oxobutanoate (11.1 g, 85.3 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (14.2 g, 55%). The compound was characterized by the following spectroscopic data:

reactant | Thiazole-2-carboximidamide hydrochloride | 71.1 mmol, 11.63 g | Cl.S1C(=NC=C1)C(N)=N
reactant | 2-chlorobenzaldehyde | 71.1 mmol, 10 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ethyl 3-oxobutanoate | 85.3 mmol, 11.1 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-chlorophenyl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 14.2 g, 55% | ClC1=C(C=CC=C1)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=CN1 | C17H16ClN3O2S
